US07410976B2
6-(4-Acetylpiperazin-1-yl)-1′-[(4,8-dimethoxyquinolin-2-yl)carbonyl]spiro[chroman-2,4′-piperidin]-4-one
To a solution of 165 mg of 6-(piperazin-1-yl)-1′-[(4,8-dimethoxyquinolin-2-yl)carbonyl]spiro[chroman-2,4′-piperidin]-4-one in 2 mL of CHCl3 was added 0.165 mL of Ac2O and 0.33 ml of triethylamine and the mixture was stirred for 4 hrs. The mixture was partitioned between CHCl3 and 1N NaOHaq, and the organic layer was separated, washed with brine, dried over MgSO4, and concentrated. The residue was purified on preparative TLC (SiO2, CHCl3/MeOH=9/1) to afford the intended compound as a yellow powder. 1H-NMR (400 MHz, CDCl3) δ7.74 (1H, d, J=8.4 Hz), 7.45 (1H, ddd, J=8.4, 8.0, 0.8 Hz), 7.32-7.34 (1H, m), 7.18 (1H, dd, J=8.8, 1.4 Hz), 7.16 (1H, s), 7.06 (1H, d, J=8.0 Hz), 6.95 (1H, d, J=8.8 Hz), 4.50-4.60 (1H, m), 4.00-4.20 (1H, m), 4.06 (3H, s), 4.02 (3H, s), 3.70-3.80 (2H, m), 3.50-3.70 (3H, m), 3.33-3.40 (1H, m), 3.00-3.20 (4H, m), 2.78 (1H, d, J=16.8 Hz), 2.72 (1H, d, J=16.8 Hz), 2.21-2.30 (1H, m), 2.10-2.20 (1H, m), 1.70-2.95 (2H, m). MS [M+H]+=559.

reactant | 6-(piperazin-1-yl)-1′-[(4,8-dimethoxyquinolin-2-yl)carbonyl]spiro[chroman-2,4′-piperidin]-4-one | 165 mg | N1(CCNCC1)C=1C=C2C(CC3(CCN(CC3)C(=O)C3=NC4=C(C=CC=C4C(=C3)OC)OC)OC2=CC1)=O | C29H32N4O5
reactant | Ac2O | 0.165 mL | CC(=O)OC(=O)C | C4H6O3
reactant | triethylamine | 0.33 ml | C(C)N(CC)CC | C6H15N
solvent | CHCl3 | 2 mL | C(Cl)(Cl)Cl | CHCl3
product | 6-(4-Acetylpiperazin-1-yl)-1′-[(4,8-dimethoxyquinolin-2-yl)carbonyl]spiro[chroman-2,4′-piperidin]-4-one | C(C)(=O)N1CCN(CC1)C=1C=C2C(CC3(CCN(CC3)C(=O)C3=NC4=C(C=CC=C4C(=C3)OC)OC)OC2=CC1)=O | C31H34N4O6
